US08703761B2
B. N-{1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-4-fluoro-benzamide
To a 5 mL Biotage microwave vial were added NMP (1 ml), 1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine (150 mg, 0.559 mmol), 2-(4-fluorophenyl)-4,4-dimethyloxazol-5(4H)-one (116 mg, 0.559 mmol,), under N2. Then it was placed in 100° C. oil bath and stirred for 2.5 h. It was cooled to r.t. and diluted with 2 ml of EtOAc. It was stirred for 10 min that resulted precipitation of the desired product. Then 2 mL of water was added and it was stirred for additional 10 min followed by addition of a couple drops of heptane. The precipitates were collected by filtration and dried under vacuum overnight. This afforded the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) 1.50 (s, 6H) 5.40 (s, 2H) 7.08-7.14 (m, 2H) 7.24-7.39 (m, 7H) 7.63-7.71 (m, 2H) 7.96-8.04 (m, 2H) 8.33 (s, 1H) 10.17 (s, 1H). MS (m/z) 476.2 M(+1), tR=1.36, Method A.

reactant | NMP | 1 ml | CN1CCCC1=O | C5H9NO
reactant | 1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine | 0.559 mmol, 150 mg | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)N | C15H13FN4
reactant | 2-(4-fluorophenyl)-4,4-dimethyloxazol-5(4H)-one | 0.559 mmol, 116 mg | FC1=CC=C(C=C1)C=1OC(C(N1)(C)C)=O | C11H10FNO2
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | N-{1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-4-fluoro-benzamide | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)NC(=O)C(C)(C)NC(C1=CC=C(C=C1)F)=O | C26H23F2N5O2
